US08980956B2
iii) Preparation of 3-(2-hydroxyethyl)-1-vinylpyrrolidin-2-one (HE-VP
To a stirred and ice-cold solution of 3-[2-(tert-butyldimethylsilanyloxy)-ethyl]-1-vinylpyrrolidin-2-one (TBSE-VP) (269 mg; 1.0 mmol) in dry tetrahydrofuran (10 mL) was dropwise added a 1.0 M solution of tetrabutylammonium fluoride (2.0 mL; 2.0 mmol; 2.0 equiv.) under an argon atmosphere. Upon completion of the addition the reaction mixture was left stirring at 0° C. for 5 min, allowed to warm to ambient temperature over 5 min and left stirring for another 40 min. The reaction mixture was partitioned between water (5 mL) and ethyl acetate (10 mL) and the aqueous phase was extracted with ethyl acetate (3×5 mL). The combined organic extracts were dried over MgSO4 and concentrated under reduced pressure. Column chromatography (ethyl acetate) afforded the target compound (135 mg; 0.87 mmol; 87%) as a pale yellow liquid.

reactant | 3-[2-(tert-butyldimethylsilanyloxy)-ethyl]-1-vinylpyrrolidin-2-one | 1.0 mmol, 269 mg | [Si](C)(C)(C(C)(C)C)OCCC1C(N(CC1)C=C)=O | C14H27NO2Si
reactant | tetrabutylammonium fluoride | 2.0 mmol, 2.0 mL, 2.0 equiv. | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(2-hydroxyethyl)-1-vinylpyrrolidin-2-one | OCCC1C(N(CC1)C=C)=O | C8H13NO2
